US05449785
To a stirred solution of n-octyltriphenylphosphonium bromide (313 mg) in dry tetrahydrofuran (0.5 ml) and dry HMPA (0.5 ml), n-BuLi (0.44 ml, 1.6M solution in n-hexane) was added at 0° C. After the mixture was stirred at 0° C. for 30 min, a solution of (1R,2R,3R)-2-(benzyloxymethyl)-3-methoxy-4,4-dimethylcyclohexane-1-carbaldehyde (68 mg) in dry tetrahydrofuran (0.5 ml) was added to the resulting orange solution. The mixture was stirred at 0° C. for 30 min, and at room temperature for 2 hrs. The reaction was quenched by addition of saturated aqueous ammonium chloride solution. The mixture was extracted with diethyl ether, and the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was chromatographed on silica gel (using n-hexane:ethyl acetate= 10:1 as an eluent) to give benzyl [(1R,2R,6S)-2-methoxy-3,3-dimethyl-6-[(E)-1-nonenyl]cyclohexyl]methyl ether (54 mg 61%).

reactant | n-octyltriphenylphosphonium bromide | 313 mg | [Br-].C(CCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (1R,2R,3R)-2-(benzyloxymethyl)-3-methoxy-4,4-dimethylcyclohexane-1-carbaldehyde | 68 mg | C(C1=CC=CC=C1)OC[C@H]1[C@@H](CCC([C@@H]1OC)(C)C)C=O | C18H26O3
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | HMPA | 0.5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | n-BuLi | 1.6M, 0.44 ml | [Li]CCCC
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | benzyl [(1R,2R,6S)-2-methoxy-3,3-dimethyl-6-[(E)-1-nonenyl]cyclohexyl]methyl ether | 54 mg, 61% | CO[C@@H]1[C@H]([C@@H](CCC1(C)C)\C=C\CCCCCCC)COCC1=CC=CC=C1 | C26H42O2
